US04314001
Following the procedure described in Japanese Patent Publication 39272/74, 50.0 ml of water was cooled to 3° C. and slowly 18.4 g (0.1 mole) of cyanuric chloride was added while maintaining 3°-5° C. by means of an external ice-water bath. Slowly 26.0 g (0.2 mole) of 3-(diethylamino)propylamine was added while maintaining 3°-12° C. by means of an ice-water bath. The resulting solution was stirred at ambient temperature for approximately eight hours and allowed to stand overnight. Slowly a 10 percent aqueous potassium carbonate solution was added to the reaction solution until it was slightly alkaline. The solid which precipitated was collected by filtration. The water wet filter cake was resuspended in water and dissolved by the addition of hydrochloric acid. Slowly 10 percent aqueous potassium carbonate was added until the mixture was slightly alkaline. The resulting solid was collected by filtration, washed with water and dried in vacuo to obtain 2-chloro-4,6-bis[3-(diethylamino)-propyl]amino-1,3,5-triazine, a water-insoluble, white colored solid which melted at 119° C.

reactant | cyanuric chloride | 0.1 mole, 18.4 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-(diethylamino)propylamine | 0.2 mole, 26.0 g | C(C)N(CCCN)CC | C7H18N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50.0 ml | O | H2O
product | 2-chloro-4,6-bis[3-(diethylamino)-propyl]amino-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCN(CC)CC)NCCCN(CC)CC | C17H34ClN7
